US04837217
Preparation of 2-t-butyl-5-(4-ethoxymethoxybenzyloxy)-4-methyl-3(2H)-pyridazinone (Compound No. 14)
By using 1.0 g of 2-t-butyl-5-hydroxy-4-methyl-3(2H)-pyridazinone, 1.1 g of 4-ethoxymethoxybenzyl chloride and 1.0 g of anhydrous potassium carbonate and similarly to the procedures in Preparation Example 2, 1.1 g of the aimed product was obtained as an oil.

reactant | 2-t-butyl-5-hydroxy-4-methyl-3(2H)-pyridazinone | 1.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)O | C9H14N2O2
reactant | 4-ethoxymethoxybenzyl chloride | 1.1 g | C(C)OCOC1=CC=C(CCl)C=C1 | C10H13ClO2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
product | 2-t-butyl-5-(4-ethoxymethoxybenzyloxy)-4-methyl-3(2H)-pyridazinone | 1.1 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)OCC1=CC=C(C=C1)OCOCC | C19H26N2O4
